US04892966
5.39 g (35 mmol) of 2-methoxy-3,4,5-trimethyl-2-cyclopenten-1-one are held at reflux temperature for 90 minutes with 53.9 g (10 fold amount by weight) of 5N hydrochloric acid. The reaction mixture is extracted 3 times with 50 ml of ether each time. The combined organic phases are dried over magnesium sulphate and concentrated on a rotary evaporator. The crude product is distilled at 45°-48° C./0.03 mbar and yields 3.57 g (72.9%) of 2-hydroxy-3,4,5-trimethyl-2-cyclopenten-1-one.

reactant | 2-methoxy-3,4,5-trimethyl-2-cyclopenten-1-one | 35 mmol, 5.39 g | COC=1C(C(C(C1C)C)C)=O | C9H14O2
reactant | hydrochloric acid | 5N, 53.9 g | Cl | ClH
product | 2-hydroxy-3,4,5-trimethyl-2-cyclopenten-1-one | 3.57 g, 72.9% | OC=1C(C(C(C1C)C)C)=O | C8H12O2
